US05684192
p-Iodobenzenesulfonyl chloride (593 g, 1.96 mol), prepared as described in Example 1(a) above, is dissolved in 2.5 L of acetone and placed in a 5 L three-neck round-bottom flask fitted with a heating mantle, mechanical stirring and a water-cooled condenser. Potassium fluoride (126 g, 2.17 mol) and about 25 mL of water is added and the reaction is heated at reflux for approximately 5 hours. On cooling, the reaction mass is filtered and the solvent removed to provide a crude solid, which on purification, by distillation under high vacuum, affords p-iodobenzenesulfonyl fluoride as a white solid; yield 504 g (90%).

reactant | p-Iodobenzenesulfonyl chloride | 1.96 mol, 593 g | IC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClIO2S
reactant | water | O | H2O
reactant | Potassium fluoride | 2.17 mol, 126 g | [F-].[K+]
reactant | water | about 25 mL | O | H2O
solvent | acetone | 2.5 L | CC(=O)C | C3H6O
product | p-iodobenzenesulfonyl fluoride | IC1=CC=C(C=C1)S(=O)(=O)F | C6H4FIO2S
